US04889953
2-O-Benzyl-1-O-[2-(2-hydroxyethoxy)ethyl]-3-O-octadecylglycerol
To 6.5 g (9.6 millimole) of 1-O-octadecyl-3-O-[2-(2-trityloxyethoxy)ethyl]glycerol synthesized in Working Example 1 were added 2.3 g (18 millimole) of benzyl chloride, 4 g (50 millimole) of 50% sodium hydroxide, and 160 mg (0.5 millimole) of cetyltrimethylammonium chloride, and the mixture was stirred at 70° C. for 18 hours. After cooling, hexane was added and the organic layer was collected by decantation. Hexane was distilled off under reduced pressure, and to the residue 50 ml of dioxane, 8 ml of 2N hydrochloric acid and 20 ml of methanol were added, and then the resulting mixture was stirred at 75° C. for 4 hours. After addition of 50 ml of water, the organic solvent was distilled off under reduced pressure, and the residue was partitioned between dichloromethane and water. The organic layer was collected and dichloromethane was distilled off, and the residue was purified by silica gel column chromatography (Merck Co., Art.7734, 150 g, Eluant; hexane-ethyl acetate=6:1, hexane-ethyl acetate-acetone=6:1:1), to give 4.7 g (92%) of the above-mentioned compound.

reactant | 1-O-octadecyl-3-O-[2-(2-trityloxyethoxy)ethyl]glycerol | 9.6 millimole, 6.5 g | C(CCCCCCCCCCCCCCCCC)OCC(O)COCCOCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H66O5
reactant | benzyl chloride | 18 millimole, 2.3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium hydroxide | 50 millimole, 4 g | [OH-].[Na+]
catalyst | cetyltrimethylammonium chloride | 0.5 millimole, 160 mg | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | hexane | CCCCCC | C6H14
product | 2-O-Benzyl-1-O-[2-(2-hydroxyethoxy)ethyl]-3-O-octadecylglycerol | 4.7 g, 92% | C(C1=CC=CC=C1)OC(COCCOCCO)COCCCCCCCCCCCCCCCCCC | C32H58O5
